US08377949B2
To a solution of AlCl3(0.4 g, 3.6 mmol) in CH2Cl2 (4 mL) at −20° C. under nitrogen are added 3,5-dimethylbenzenethiol (1 g, 7.2 mmol) and oxalyl chloride (0.6 mL, 7.2 mmol) respectively. The solution is warmed to room temperature for 1 hour and is heated to 120° C. in a microwave reactor for 15 minutes. The solution is cooled and is poured into crushed ice. The solution is extracted with CH2Cl2 and the organic layer is collected. The solution is dried with MgSO4 and is filtered. The filtrate is concentrated and the residue is purified by flash chromatography with 5% EtOAc in Hexane as the eluent to afford 4,6-dimethyl-benzo[b]thiophene-2,3-dione (500 mg, 35%).

reactant | AlCl3 | 3.6 mmol, 0.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 3,5-dimethylbenzenethiol | 7.2 mmol, 1 g | CC=1C=C(C=C(C1)C)S | C8H10S
reactant | oxalyl chloride | 7.2 mmol, 0.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 4,6-dimethyl-benzo[b]thiophene-2,3-dione | 500 mg, 35% | CC1=CC(=CC=2SC(C(C21)=O)=O)C | C10H8O2S
